US04945099
5-Acetyl-2,4-dihydroxybenzaldehyde
To a mixture of 49.8 g of 2,4-dimethoxybenzaldehyde, 23.6 ml of acetyl chloride, and 1000 ml of methylene chloride cooled to approximately 0° C. were added 119.7 g of aluminum chloride with stirring under a nitrogen atmosphere. The reaction was allowed to warm to room temperature while stirring overnight. The mixture was added to a slurry of ice and concentrated hydrochloric acid. The organic layer was separated and washed with a saturated sodium chloride solution, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by high pressure liquid chromatography over silica gel eluting with a 0-40% ethyl acetate in hexane gradient. The appropriate fractions were pooled and concentrated to provide 5.85 g of the desired title intermediate, m.p.=142°-143° C.

reactant | 2,4-dimethoxybenzaldehyde | 49.8 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | acetyl chloride | 23.6 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 119.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | 5-Acetyl-2,4-dihydroxybenzaldehyde | 5.85 g | C(C)(=O)C=1C(=CC(=C(C=O)C1)O)O | C9H8O4
